US06613781B2
Preparation of tert-Butyl 5-{[5-fluoro-1-(phenyl-sulfonyl)-1H-indol-3-yl]methyl}-3,6-dihydro-1(2H)-pyridinecarboxylate
A stirred solution of tert-butyl 5-[(5-fluoro-1H-indol-3-yl)methyl]-3,6-dihydro-1(2H)-pyridinecarboxylate (430 mg, 1.30 mmol) in tetrahydrofuran is treated with NaH (60% in mineral oil, 78 mg, 1.95 mmol) portion-wise under nitrogen at room temperature, stirred for 0.5 hr, treated with benzenesulfonyl chloride (0.25 ml, 1.95 mmol), stirred for 17 hr under nitrogen at room temperature, quenched with ice-water and diluted with ethyl acetate. The phases are separated and the aqueous phase is extracted with ethyl acetate. The combined extracts and organic phase are washed with water and saturated NaCl, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane, 1/9) to afford the title compound as a yellow solid, 350 mg, mp 63-65° C., identified by NMR and mass spectral analyses.

reactant | tert-butyl 5-[(5-fluoro-1H-indol-3-yl)methyl]-3,6-dihydro-1(2H)-pyridinecarboxylate | 1.30 mmol, 430 mg | FC=1C=C2C(=CNC2=CC1)CC1=CCCN(C1)C(=O)OC(C)(C)C | C19H23FN2O2
reactant | NaH | 1.95 mmol, 78 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 1.95 mmol, 0.25 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 5-{[5-fluoro-1-(phenyl-sulfonyl)-1H-indol-3-yl]methyl}-3,6-dihydro-1(2H)-pyridinecarboxylate | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CC1=CCCN(C1)C(=O)OC(C)(C)C | C25H27FN2O4S
